US07265246B2
B. C-(4-phenyl-furan-2-yl)methylamine
Prepare a solution of 4-phenyl-2-formylfuran (1.5 g, 8.7 mmol) and MeOH (35 mL). Add NH4OAc (6.7 g, 87.1 mmol) and NaCNBH3 (380 mg, 6.1 mmol). Stir the reaction mixture under nitrogen for 12 hours. Upon completion of the reaction, concentrate the resulting mixture, dilute with water (10 mL), basify with 1 N sodium hydroxide, and extract with diethyl ether (2×10 mL). Dry the organic phase (Na2SO4), filter, and concentrate. Perform flash chromatography on silica gel eluting with 9:1 ethyl acetate/MeOH to afford the title compound (230 mg) as a white solid. 1H NMR (CDCl3) δ 7.65 (s, 1H), 7.46 (d, J=7 Hz, 1H), 7.36 (t, J=7 Hz, 1H), 7.26 (m, 1H), 6.49 (s, 1H), 3.89 (s, 2H), 2.10 (s, 2H).

reactant | 4-phenyl-2-formylfuran | 8.7 mmol, 1.5 g | C1(=CC=CC=C1)C=1C=C(OC1)C=O | C11H8O2
reactant | NaCNBH3 | 6.1 mmol, 380 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 35 mL | CO | CH4O
product | C-(4-phenyl-furan-2-yl)methylamine | 230 mg | C1(=CC=CC=C1)C=1C=C(OC1)CN | C11H11NO
